US09403798B2
6-Chloro-4-[4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one
1-(4,6-Dichloro-1,3,5-triazin-2-yl)-4-(4-fluorophenyl)piperidin-4-ol (304 mg, 0.89 mmol) synthesized in Reference Synthesis Example 12 and 1 M sodium hydroxide aqueous solution (1.80 mL, 1.80 mmol) were used to obtain the title compound (169 mg, yield 59%) by synthesis in a similar manner to Reference Synthesis Example 2.

reactant | 1-(4,6-Dichloro-1,3,5-triazin-2-yl)-4-(4-fluorophenyl)piperidin-4-ol | 0.89 mmol, 304 mg | ClC1=NC(=NC(=N1)Cl)N1CCC(CC1)(O)C1=CC=C(C=C1)F | C14H13Cl2FN4O
reactant | sodium hydroxide | 1.80 mmol, 1 M, 1.80 mL | [OH-].[Na+]
product | 6-Chloro-4-[4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | 169 mg, yield 59% | ClC1=NC(=NC(N1)=O)N1CCC(CC1)(O)C1=CC=C(C=C1)F | C14H14ClFN4O2
